US08309730B2
To a stirred solution of 4-(4-fluorophenyl)-1H-imidazole (10 g, 62 mmol) in 95% ethanol (25 mL) was added aqueous formaldehyde solution (37%, 9 mL) slowly. The reaction mixture was stirred at RT for 1 hr before water (25 mL) was added. The reaction mixture was stirred at RT for an additional 3 hr. The solid that separated from solution out was filtered, washed with aqueous ethanol solution, and dried to give (4-(4-fluorophenyl)-1H-imidazol-1-yl)methanol (11.4 g, 59 mmol, 96% yield) as a solid. MS found: (M+H—CH2O)+=163.1.

reactant | 4-(4-fluorophenyl)-1H-imidazole | 62 mmol, 10 g | FC1=CC=C(C=C1)C=1N=CNC1 | C9H7FN2
reactant | formaldehyde | 9 mL | C=O | CH2O
reactant | water | 25 mL | O | H2O
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | (4-(4-fluorophenyl)-1H-imidazol-1-yl)methanol | 59 mmol, 11.4 g, 96% yield | FC1=CC=C(C=C1)C=1N=CN(C1)CO | C10H9FN2O
